US06451810B1
Triethyl orthoformate (11.3 g, 73.4 mmol) was added to a solution of tert-butyl N-[2-(3-aminoquinolin-4-yl)aminoethyl]carbamate (21 g, 69.4 mmol) in anhydrous toluene (250 mL). The reaction mixture was heated at reflux for 5 hours and then allowed to slowly cool to ambient temperature. The resulting precipitate was isolated by filtration and dried to provide 17.6 g of tert-butyl N-[2-(1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate as a light tan solid, m.p. 154-155° C.

reactant | Triethyl orthoformate | 73.4 mmol, 11.3 g | C(OCC)(OCC)OCC | C7H16O3
reactant | tert-butyl N-[2-(3-aminoquinolin-4-yl)aminoethyl]carbamate | 69.4 mmol, 21 g | NC=1C=NC2=CC=CC=C2C1NCCNC(OC(C)(C)C)=O | C16H22N4O2
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl N-[2-(1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate | 17.6 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCNC(OC(C)(C)C)=O | C17H20N4O2
